US06875884B1
Propyl iodide (51 mg, 0.30 mmol) was added to a mixture of N-phenylcarbamoyl-N′-[2-(4-chlorophenyl)ethyl]-1,3-diaminopropane (33 mg, 0.10 mmol) and potassium carbonate (28 mg, 0.20 mmol) in CH3CN (2 ml). The mixture was stirred at 75° C. for 5 h, and then filtered. The filtrate was concentrated under vacuum to dryness, and the residue was purified by preparative normal phase HPLC using linear gradients of (A) chloroform and (B) methanol (0-5% B, in 0-10 min; 5-10% B, in 10-30 min; 10-15% B, in 30-40 min) at a flow rate of 10 ml/min. Fractions containing the major peak were pooled and concentrated to afford N-phenylcarbamoyl-N′-[2-(4-chlorophenyl)ethyl]-N′-propyl-1,3 diaminopropane (27 mg, 59%): MS(ES+) m/e 374 [M+H]+; 1H NMR (400 MHz, CDCl3) δ 7.35 (d, J=8.3 Hz, 2H), 7.25 (m, 4H), 7.07 (m, 3H), 5.98 (br, 1H), 5.00 (br, 1H), 3.31 (m, 2H), 2.78 (m, 6H), 2.59 (m, 2H), 1.76 (m, 2H), 1.52 (m, 2H), 0.90 (t, J=7.3 Hz, 3H).

reactant | Propyl iodide | 0.30 mmol, 51 mg | C(CC)I | C3H7I
reactant | N-phenylcarbamoyl-N′-[2-(4-chlorophenyl)ethyl]-1,3-diaminopropane | 0.10 mmol, 33 mg | C1(=CC=CC=C1)NC(=O)NCCCNCCC1=CC=C(C=C1)Cl | C18H22ClN3O
reactant | potassium carbonate | 0.20 mmol, 28 mg | C([O-])([O-])=O.[K+].[K+]
solvent | CH3CN | 2 ml | CC#N | C2H3N
product | N-phenylcarbamoyl-N′-[2-(4-chlorophenyl)ethyl]-N′-propyl-1,3 diaminopropane | 27 mg, 59% | C1(=CC=CC=C1)NC(=O)NCCCN(CCC)CCC1=CC=C(C=C1)Cl | C21H28ClN3O
